US07645771B2
Preparation of 2,2,2-trichloro-N-{1-ethyl-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]propyl}acetamide
2-Amino-2-ethyl-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-butan-1-one (0.100 g, 0.178 mmol), trichloroacetyl chloride (0.032 g, 0.178 mmol) and DIEA (0.069 g, 0.534 mmol) as outlined in procedure for procedure for Example 890 to give title compound, 2,2,2-trichloro-N-{1-ethyl-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]propyl}acetamide (0.068 g, 54%). ES-LCMS m/z 706 (M+1).

reactant | 2-Amino-2-ethyl-1-(4-(3-fluoro-phenyl)-4-{2-[3-(2-methyl-benzoimidazol-1-yl)-8-aza-bicyclo[3.2.1]oct-8-yl]-ethyl}-piperidin-1-yl)-butan-1-one | 0.178 mmol, 0.100 g | NC(C(=O)N1CCC(CC1)(CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)(CC)CC | C34H46FN5O
reactant | trichloroacetyl chloride | 0.178 mmol, 0.032 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | DIEA | 0.534 mmol, 0.069 g | CCN(C(C)C)C(C)C | C8H19N
product | 2,2,2-trichloro-N-{1-ethyl-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]propyl}acetamide | 0.068 g, 54% | ClC(C(=O)NC(CC)(C(=O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)CC)(Cl)Cl | C36H45Cl3FN5O2
